US04990495
The same procedure as that described in example 2(b) was followed but using 5.92 g of 14-isopropyl-13,15-dioxabicyclo[10.3.0]pentadeca-4,8-diene and 39.5 ml of a 1.2M solution of DIBAH in toluene. 4.71 g of 12-isobutoxy-4,8-cyclododecadien-1-ol were obtained.

reactant | 14-isopropyl-13,15-dioxabicyclo[10.3.0]pentadeca-4,8-diene | 5.92 g | C(C)(C)C1OC2CCC=CCCC=CCCC2O1 | C16H26O2
reactant | DIBAH | CC(C)C[AlH]CC(C)C
solvent | toluene | C1(=CC=CC=C1)C | C7H8
product | 12-isobutoxy-4,8-cyclododecadien-1-ol | 4.71 g, yield 79% | C(C(C)C)OC1CCC=CCCC=CCCC1O | C16H28O2
